US08076487B2
(1) Production of 1,2-dihydro-2-oxo-1-phenyl-6-(n-propylthiomethyl)pyridine-3-carboxylic acid ethyl ester
1,2-dihydro-6-hydroxymethyl-2-oxo-1-phenylpyridine-3-carboxylic acid ethyl ester (5.0 g, 18 mmol) was dissolved in dichloromethane (100 mL), and phosphorus tribromide (1.95 g, 7.2 mol) was added to this solution at −20° C. under a nitrogen atmosphere. The mixture was allowed to react for 4 hours. The reaction mixture was poured into water and a liquid separation was subjected. The organic layer was washed with an aqueous sodium bicarbonate solution and water, dried, and concentrated to obtain 3.30 g of a crude desired product. This crude product was dissolved in N,N′-dimethylformamide (30 mL), and potassium carbonate (2.0 g, 14 mmol) and propyl mercaptan (1.1 g, 14 mmol) were added thereto. The mixture was allowed to react for 2 hours at room temperature. The reaction mixture was poured into water, and extracted with ethyl acetate. The organic layer was washed with an aqueous solution of citric acid and water, dried, and concentrated. Thus obtained oily product was purified by column chromatography (elution solvent: hexane/ethyl acetate=3/2) to obtain 1.17 g of a desired product (yield: 20%, two stages).

reactant | 1,2-dihydro-6-hydroxymethyl-2-oxo-1-phenylpyridine-3-carboxylic acid ethyl ester | 18 mmol, 5.0 g | C(C)OC(=O)C=1C(N(C(=CC1)CO)C1=CC=CC=C1)=O | C15H15NO4
reactant | phosphorus tribromide | 7.2 mol, 1.95 g | P(Br)(Br)Br | Br3P
reactant | potassium carbonate | 14 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | propyl mercaptan | 14 mmol, 1.1 g | C(CC)S | C3H8S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | N,N′-dimethylformamide | 30 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1,2-dihydro-2-oxo-1-phenyl-6-(n-propylthiomethyl)pyridine-3-carboxylic acid ethyl ester | 1.17 g, yield: 20% | C(C)OC(=O)C=1C(N(C(=CC1)CSCCC)C1=CC=CC=C1)=O | C18H21NO3S
